US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1-N-methyl-1,2,5,6-tetrahydropyridine
To a 25° C. solution of 1.0 g. (3.32 mmoles) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine in 15 ml. of acetonitrile is added 1.32 ml. (17.6 mmoles) of 37% formaldehyde solution. After stirring for one hour the reaction is cooled to 0° C. and 332 mg. (5.3 mmole) of sodium cyanoborohydride added. The reaction mixture is allowed to warm to 25° C. over a one hour period while the pH is maintained at 7 by the addition of acetic acid. The reaction mixture is evaporated, made basic with 2N potassium hydroxide and extracted with 200 ml. of dichloromethane. The organic extract is dried over magnesium sulfate and evaporated. The residue is crystallized from ether-pentane to yield 350 mg. of the title compound.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine | 3.32 mmoles | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CNCCC1)O | C20H31NO
reactant | acetonitrile | C(C)#N | C2H3N
reactant | formaldehyde | 17.6 mmoles | C=O | CH2O
reactant | sodium cyanoborohydride | 5.3 mmole | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1-N-methyl-1,2,5,6-tetrahydropyridine | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CN(CCC1)C)O | C21H33NO
